US05977365
5-{4-(5-Ethoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 1.00 g of 5-ethoxy-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine (prepared as described in Preparation 98), 2.25 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 1.2 ml of tributylphosphine, 1.22 g of 1,1'-(azodicarbonyl)dipiperidine and 60 ml of toluene were used, and that the product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2.81 g of the title compound, melting at 88-100° C. (softening).

reactant | 5-ethoxy-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine | 1.00 g | C(C)OC1=CC=C2C(=N1)N(C(=N2)CO)C | C10H13N3O2
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 2.25 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 1.2 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 1.22 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-(5-Ethoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 2.81 g | C(C)OC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C39H34N4O4S
